US07465731B2
To a solution of ethyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate (300 mg) and potassium carbonate (4.94 mg) in DMF (15 mL) was added (3R)-1-benzyl-3-piperidinamine dihydrochloride (668 mg) under nitrogen at ambient temperature and the mixture was stirred at 85° C. for 18 hrs. The reaction mixture was evaporated in vacuo and the residue was partitioned between water and ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform-MeOH=97-3) to give ethyl (2E)-3-(5-{[(3R)-1-benzyl-3-piperidinyl]amino}-2-pyrazinyl)acrylate (125 mg) as an oil.

reactant | ethyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate | 300 mg | ClC=1N=CC(=NC1)/C=C/C(=O)OCC | C9H9ClN2O2
reactant | potassium carbonate | 4.94 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3R)-1-benzyl-3-piperidinamine dihydrochloride | 668 mg | Cl.Cl.C(C1=CC=CC=C1)N1C[C@@H](CCC1)N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | ethyl (2E)-3-(5-{[(3R)-1-benzyl-3-piperidinyl]amino}-2-pyrazinyl)acrylate | 125 mg | C(C1=CC=CC=C1)N1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC | C21H26N4O2
